US06235900B1
Step A. 2,4-Difluoro benzoylchloride
A suspension of 2,4-difluorobenzoic acid (3.6 g, 22.8 mmol) in dichloromethane (40 mL) containing a few drops of dimethylformamide was treated dropwise under nitrogen with oxalyl chloride (2.4 mL, 27.5 mmol). After gas evolution subsided, the reaction mixture was refluxed for an additional 15 minutes, and then the solution was evaporated to dryness in vacuo. The crude acid chloride was used as such in the next step.

reactant | 2,4-difluorobenzoic acid | 22.8 mmol, 3.6 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | oxalyl chloride | 27.5 mmol, 2.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 2,4-Difluoro benzoylchloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
